US06982348B2
4-(difluoromethyl)-N-((1S,2R)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (300 mg, 0.96 mmol) in acetonitrile (30 ml) were added 4-(difluoromethyl)-1-naphthalenecarboxylic acid (213 mg, 0.96 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (275 mg, 1.44 mmol) and 1-hydroxy-1H-benzotriazole (147 mg, 0.96 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from ethyl acetate-hexane to give the-title compound (410 mg, 83%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 0.96 mmol, 300 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C16H15F4NO
reactant | 4-(difluoromethyl)-1-naphthalenecarboxylic acid | 0.96 mmol, 213 mg | FC(C1=CC=C(C2=CC=CC=C12)C(=O)O)F | C12H8F2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.44 mmol, 275 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.96 mmol, 147 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-(difluoromethyl)-N-((1S,2R)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 410 mg, 83% | FC(C1=CC=C(C2=CC=CC=C12)C(=O)N[C@H]([C@H](O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F)F | C28H21F6NO2
